US08471005B2
Into a 1-neck round-bottom flask, [1-(3-Methoxy-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester (4.20 g, 15.1 mmol), Methylene chloride (25 mL, 390 mmol), and Trifluoroacetic Acid (5 mL, 60 mmol) were added. The reaction was stirred at room temperature overnight. The reaction was partitioned with Saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give 1-(3-Methoxy-phenyl)-cyclobutylamine as an oil (2.60, 96%).

reactant | [1-(3-Methoxy-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester | 15.1 mmol, 4.20 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC(=CC=C1)OC)=O | C16H23NO3
reactant | Methylene chloride | 390 mmol, 25 mL | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 60 mmol, 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(3-Methoxy-phenyl)-cyclobutylamine | COC=1C=C(C=CC1)C1(CCC1)N | C11H15NO
